US07375113B2
To a solution of 1-(3-hydroxypropyl)-3-(2,3,4,6-tetra-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxy-phenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (0.49 g) and triethylamine (0.11 mL) in dichloromethane (5 mL) was added methanesulfonyl chloride (0.051 mL), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 1-(3-methanesulfonyloxypropyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (0.53 g). To a solution of the obtained 1-(3-methanesulfonyloxypropyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (0.16 g) in N,N-dimethylformamide (3 mL) was added sodium azide (16 mg), and the mixture was stirred at100° C. for 1 hour. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1) to give 1-(3-azidopropyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (94 mg). This material was dissolved in tetrahydrofuran (3 mL). To the solution was added 10% palladium-carbon powder (30 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (90 mg).

reactant | 1-(3-methanesulfonyloxypropyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine | 0.16 g | CS(=O)(=O)OCCCN1N=C(C=2C1=NC=CC2CCC2=CC=C(C=C2)OC(C(C)(C)C)=O)O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C49H71N3O15S
reactant | sodium azide | 16 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-(3-azidopropyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine | 94 mg | N(=[N+]=[N-])CCCN1N=C(C=2C1=NC=CC2CCC2=CC=C(C=C2)OC(C(C)(C)C)=O)O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C48H68N6O12
